US04929613
Ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropionate.
A solution of 3.95 g (11.25 mmol) ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-2,5-difluoro-β-oxobenzenepropionate in 25 ml of acetic anhydride and 2.8 ml of triethyl orthoformate was refluxed 1.5 hours. The title compound was isolated as a syrup after evaporation under vacuum in an oil bath at 80° C.

reactant | ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-2,5-difluoro-β-oxobenzenepropionate | 11.25 mmol, 3.95 g | C(C)(=O)N1CCC(=CC1)C1=CC(=C(C=C1F)C(CC(=O)OCC)=O)F | C18H19F2NO4
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl orthoformate | 2.8 ml | C(OCC)(OCC)OCC | C7H16O3
product | Ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropionate | C(C)(=O)N1CCC(=CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=COCC)=O)F | C21H23F2NO5
